US05118694
In an analogous manner to that described in the first paragraph of Example 39, from 4-(5-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile there was obtained 5-chloro-2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide of melting point 159°-161° C. (from ethanol).

reactant | 4-(5-chloro-2-pyridyl)-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-6-carbonitrile | ClC=1C=CC(=NC1)C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O
reactant | ethanol | C(C)O | C2H6O
product | 5-chloro-2-(6-cyano-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran-4-yl)pyridine N-oxide | ClC=1C=CC(=[N+](C1)[O-])C1CC(OC2=C1C=C(C=C2)C#N)(C)C | C17H15ClN2O2
